US09023840B2
Step 3: tert-butyl 3-(cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate
A mixture of 4-(1H-pyrazol-4-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine (0.527 g, 1.68 mmol), tert-butyl 3-(cyanomethylene)azetidine-1-carboxylate (0.358 g, 1.84 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (135 μL, 0.903 mmol) in acetonitrile (4.0 mL) was heated at 50° C. for 1 hour. After cooling, the solvent was removed under reduced pressure. The residue was diluted with ethyl acetate, neutralized with 0.5 N HCl aqueous solutions, washed brine, dried over Na2SO4, filtered and concentrated under reduced pressure to afford the desired product (0.85 g, quantitative) which was directly used in next step reaction without further purification. LCMS (M+H)+: m/z=509.3.

reactant | 4-(1H-pyrazol-4-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine | 1.68 mmol, 0.527 g | N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C16H22N4OSi
reactant | tert-butyl 3-(cyanomethylene)azetidine-1-carboxylate | 1.84 mmol, 0.358 g | C(#N)C=C1CN(C1)C(=O)OC(C)(C)C | C10H14N2O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.903 mmol, 135 μL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
product | tert-butyl 3-(cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate | 0.85 g | C(#N)CC1(CN(C1)C(=O)OC(C)(C)C)N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C26H36N6O3Si
